US07427613B2
Cyclopropyl-(3-fluoro-2-methylbenzyl)amine
Synthesized according to typical procedure J from 3-fluoro-2-methylbenzaldehyde and cyclopropylamine.

reactant | 3-fluoro-2-methylbenzaldehyde | FC=1C(=C(C=O)C=CC1)C | C8H7FO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(3-fluoro-2-methylbenzyl)amine | C1(CC1)NCC1=C(C(=CC=C1)F)C | C11H14FN
